US05589473
To a solution of 13.8 g of 2-formyl-5-methoxy-6-methyl-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-benzoic acid allyl ester in 38 ml of trifiuoroacetie acid, cooled to 0° C., were added within 15 min a solution of 13.7 g of (R)-2-mercapto-1-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylcarbamic acid tert-butyl ester and 6.2 g of triethylsilane in 38 ml of dichloromethane. The solution was kept at 0° C. for 18 h and then evaporated in vacuo. The residue was taken up in ethyl acetate and the solution was successively washed with water, saturated sodium carbonate solution and brine, and dried over sodium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on silica gel using ethyl acetate/hexane (1:3, v/v) as eluent to yield 14.1 g of (R)-2-[2-amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanyl-methyl]-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-5-methoxy-6-methylbenzoic acid allyl ester as a pale yellow oil.

reactant | 2-formyl-5-methoxy-6-methyl-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-benzoic acid allyl ester | 13.8 g | C(C=C)OC(C1=C(C(=CC(=C1C)OC)O[Si](C(C(C)C)(C)C)(C)C)C=O)=O | C21H32O5Si
reactant | (R)-2-mercapto-1-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylcarbamic acid tert-butyl ester | 13.7 g | C(C)(C)(C)OC(N[C@@H](CS)C1=NC(=NO1)C)=O | C10H17N3O3S
reactant | triethylsilane | 6.2 g | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 38 ml | ClCCl | CH2Cl2
product | (R)-2-[2-amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanyl-methyl]-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-5-methoxy-6-methylbenzoic acid allyl ester | 14.1 g | C(C=C)OC(C1=C(C(=CC(=C1C)OC)O[Si](C(C(C)C)(C)C)(C)C)CSC[C@@H](C1=NC(=NO1)C)N)=O | C26H41N3O5SSi
